* Extracted by KLayout with GF180MCU LVS runset on : 01/08/2026 15:17

.SUBCKT programmable_nfet ena_bar<0> g ena_bar<1> VDD VSS s d ena<0> ena<1>
X$1 g \$1 VDD VSS ena_bar<1> ena<1> transmission_gate
X$4 g \$3 VDD VSS ena_bar<0> ena<0> transmission_gate
M$1 VSS ena_bar<0> \$3 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$2 VSS ena_bar<1> \$1 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$3 d \$1 s VSS nfet_03v3 L=1U W=54.2U AS=23.577P AD=23.577P PS=83.04U PD=83.04U
M$5 s \$3 d VSS nfet_03v3 L=1U W=27.1U AS=16.531P AD=16.531P PS=55.42U PD=55.42U
M$6 s g d VSS nfet_03v3 L=1U W=27.1U AS=16.531P AD=16.531P PS=55.42U PD=55.42U
.ENDS programmable_nfet

.SUBCKT transmission_gate in out VDD VSS ena_bar ena
M$1 out ena_bar in VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 out ena in VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS transmission_gate
